datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])=[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[H:20])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]1([C:7](=[C:8]([H:22])[H:23])[H:21])[H:20],42.4676
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([S:15][H:23])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:19])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[S:15][H:23])([H:16])([H:17])[H:18],51.9653
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:17][O:38],7.397312
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],48.116
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7](=[S:8])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:6]([C:7](=[S:8])[H:11])([H:9])[H:10],112.968
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[C:7]([S:8])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6][S:8][C:7]([H:9])([H:10])[H:11],49.162
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13]([S:14][H:20])([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:18])[H:6].[C:11](=[C:12]([C:13]([S:14][H:20])[H:19])[H:17])([H:15])[H:16],25.5224
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22][C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:22](=[C:21]([H:24])[H:25])[C:23]([H:26])([H:27])[H:28])[H:11])([H:9])[H:10],-1.42256
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](#[C:7][C:8]([C:9]([H:12])([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])[H:11]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:8]([C:7]#[C:6][H:11])([C:9]([H:12])([H:13])[H:14])[C:10]([H:15])([H:16])[H:17],24.9366
[C:0](=[O:1])[H:2].[H:3]>>[C-:0]#[O+:1].[H:2][H:3],0.0
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([O:9][H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[O:9][C:8]([H:10])([H:11])[H:12])([H:3])[H:4].[H:13],141.357
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][O:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:14][O:15],218.78136
[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[C:4]([H:12])[H:13])([H:7])[H:8])([H:5])([H:6])[H:11],82.4248
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[c:20]1[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]1[H:30]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[c:20]1[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]1[H:30])[H:12])([H:10])[H:11],-2.092
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([H:11])[H:12])([H:9])[H:10])[H:8])[H:7])[H:6]>>[C:0](#[C:1][C:2]([C:3]1([H:8])[C:4]([H:9])([H:10])[C:5]1([H:11])[H:12])[H:7])[H:6],22.6773
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4][c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:12][O:15],94.96634
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])[O:7][O:8][H:19])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])=[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([H:9])([H:10])[H:11].[O:7][O:8][H:19],63.5968
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],150.038
